data/core_train_final.csv
"C[C:20]1CC(C1)(C)C.[Br:10][Br:11]>>CC1(C[C:20](C1)(C)[Br:10])C.[Br:11] 20-10,20;10,11-10,20;10,11-11",Room Temperature,Propagation,abstraction
"[CH3:15][CH2:14][O:13][C:12](=[O:16])[CH:11]([CH3:17])[S:10][C:9](=[S:18])[S:8][CH2:7][CH3:6].[CH3:4][C:3]([CH3:5])[C:2]#[N:1]>>[CH3:15][CH2:14][O:13][C:12](=[O:16])[CH:11]([CH3:17])[S:10][C:9]([S:8][CH2:7][CH3:6])[S:18][C:3]([CH3:4])([CH3:5])[C:2]#[N:1] 9,18-9; 9,18-18,3; 3-3,18",Room Temperature,Propagation,addition
"[H:8][C:2]([CH3:1])([CH3:9])[O:3][C:4]([CH3:5])([CH3:6])[CH3:7].[O:10][O:11]>>[H:8][O:11][O:10].[CH3:1][C:2]([CH3:9])[O:3][C:4]([CH3:5])([CH3:6])[CH3:7] 11-11,8; 8,2-8,11; 8,2-2",Room Temperature,Propagation,abstraction
"[H:20][O:21]C1=C(C(=C2C(=C1C)CCC(O2)(C)C)C)C.[OH:10]>>[H:20][OH:10].CC1=C(C(=C2CCC(OC2=C1C)(C)C)C)[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC[C:10](C)Cl.[Cl:20][Cl:21]>>CC[C:10](C)(Cl)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:7][Br:6].[CH3:4][C:3]([CH3:5])[CH:2]=[CH2:1].[Br:8]>>[H:7][Br:6].[CH3:4][C:3]([CH3:5])([CH:2]=[CH2:1])[Br:8] 8-3,8;3-3,8",Room Temperature,Termination,recombine
"CC1CCC[CH:10]1.[Cl:20][Cl:21]>>CC1CCC[CH:10]1[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:1][C:2]1[CH2:3][CH2:4][CH2:5][CH2:6][CH2:7]1.[Cl:8][Cl:9]>>[H:1][C:2]1([CH2:3][CH2:4][CH2:5][CH2:6][CH2:7]1)[Cl:8].[Cl:9] 8,9-2,8;2-2,8;8,9-9",Room Temperature,Propagation,abstraction
"[H:20][S:21]C1=CC=CC=C1.C[C:10](C)C#N>>[H:20][C:10](C)(C)C#N.C1=CC=C(C=C1)[S:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"O=C(CC1)C(C(OCC)=O)([CH2:10])C2=C1C=CC=C2.[H:20][Sn:21](CCCC)(CCCC)CCCC>>O=C(CC3)C(C(OCC)=O)([CH2:10][H:20])C4=C3C=CC=C4.CCCC[Sn:21](CCCC)CCCC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH2:1]=[CH:2][C:3]([CH2:5][O:6][S:7](=[O:8])(=[O:10])[O-:9])[Cl:4]>>[CH2:1][CH:2]=[C:3]([CH2:5][O:6][S:7](=[O:8])(=[O:10])[O-:9])[Cl:4] 3-3,2; 2,1-2,3; 2,1-1",Room Temperature,Propagation,resonance
"[CH2:9]1[CH2:10][CH:2]([CH:3]2[CH:4]=[CH:5][CH:6]1[O:7][O:8]2)[O:1]>>[CH:4]1=[CH:5][CH:6]([O:7][O:8][CH:3]1)[CH2:9][CH2:10][CH:2]=[O:1] 1-1,2; 3,2-2,1; 3,2-3",Room Temperature,Propagation,retroaddition
"[H:1][C:2]([H:3])([H:6])[O:4][O:5].[H:7][O:8][O:9]>>[H:1][C:2]([H:3])([H:6])[O:4][O:5][H:7].[O:8][O:9] 5-5,7;7,8-5,7;7,8-8",Room Temperature,Propagation,abstraction
"CC1CCCC(C1)(C)C.[Br:20][Br:21]>>CC1CCCC(C1)(C)C.[Br:20].[Br:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCC(C)[C:10]=O.[O:20][O]>>CCCC(C)[C:10]([O:20][O])=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C1CC1[CH2:21][C:20](=O)[O:10]>>[CH2:21]C1CC1.[C:20](=O)=[O:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"C1=CC2=C(C=C1)C3=C(C=CC=C3)[C:10]4C2C(C4Cl)(Cl)Cl.[Br:20][Br:21]>>C1=CC2=C(C=C1)C3=C(C=CC=C3)[C:10]4(C2C(C4Cl)(Cl)Cl)[Br:20].[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[C:20](C)CCC(C)(C)C.[Br:10][Br:11]>>CC(C)(C)CC[C:20](C)(C)[Br:10].[Br:11] 20-10,20;10,11-10,20;10,11-11",Room Temperature,Propagation,abstraction
"[H:10][CH2:9][N:2]([CH3:1])[CH2:3][CH2:4][N+:5]([H:6])([CH3:7])[CH3:8].[O:13]=[S:12](=[O:16])([O:11])[O:14][K:15]>>[H:6][N+:5]([CH3:7])([CH3:8])[CH2:4][CH2:3][N:2]([CH3:1])[CH2:9].[H:10][O:11][S:12](=[O:13])(=[O:16])[O:14][K:15] 11-11,10;9,10-10,11;10,9-9",Room Temperature,Propagation,abstraction
"[H:1][C:2]([H:3])([H:4])[H:5].[H:7][O:6]>>[H:3][C:2]([H:4])[H:1].[H:7][O:6][H:5] 6-6,5; 5,2-5,6;5,2-2",Room Temperature,Propagation,abstraction
"[H:30][C:29]([H:31])([CH:28]=[CH:27][CH2:26][CH2:25][CH2:24][CH2:23][CH2:22][CH3:21])[CH:32]=[CH:33][CH2:34][CH2:35][CH2:36][CH2:37][CH2:38][CH2:39][C:40](=[O:43])[O:41][CH3:42].[CH3:18][CH2:17][CH2:16][CH2:15][CH2:14][CH2:13][CH2:12][CH2:11][CH:10]=[CH:9][CH:8]=[CH:7][CH:6]([CH2:5][CH2:4][CH2:3][CH2:2][CH3:1])[O:19][O:20]>>[H:30][C:29]([CH:28]=[CH:27][CH2:26][CH2:25][CH2:24][CH2:23][CH2:22][CH3:21])[CH:32]=[CH:33][CH2:34][CH2:35][CH2:36][CH2:37][CH2:38][CH2:39][C:40](=[O:43])[O:41][CH3:42].[H:31][O:20][O:19][CH:6]([CH2:5][CH2:4][CH2:3][CH2:2][CH3:1])[CH:7]=[CH:8][CH:9]=[CH:10][CH2:11][CH2:12][CH2:13][CH2:14][CH2:15][CH2:16][CH2:17][CH3:18] 20-31,20;31,29-31,20;31,29-29",Room Temperature,Propagation,abstraction
"C1CCC2=C(C1)CCC[CH:10]2.[Br:20]>>C1CCC2=C(C1)CCC[CH:10]2[Br:20] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH2:12]1[CH:11]([CH2:13]1)[CH2:10].[Cl:20][Cl:21]>>[CH2:12]1[CH:11]([CH2:13]1)[CH2:10][Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:3][C:2](=[O:1])[C:4]1=[CH:5][CH:6]=[CH:7][CH:8]=[CH:9]1.[O:10][O:11]>>[H:3][O:11][O:10].[CH:7]1=[CH:6][CH:5]=[C:4]([CH:9]=[CH:8]1)[C:2]=[O:1] 11-3,11;2,3-3,11;2,3-2",Room Temperature,Propagation,abstraction
